US07199147B2
A solution of 6-chloro-2-fluoro-3-methylphenol (9.00 g, 56.1 mmol) in dichloromethane (100 ml) was added dropwise to a suspension of 85% nitronium•tetrafluoroborate (9.50 g, 60.8 mmol) in dichloromethane (150 ml) at 0 to 5° C. under ice-cooling. The resulting mixture was warmed up to room temperature and stirred for 2 hours while maintaining the temperature. The mixture was poured into ice water and then partitioned and extracted with chloroform, and the organic layer was washed with water, dried over anhydrous magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure to obtain a crude product. After the crude product was dissolved in toluene (57 ml) by heating to 80° C., the solution was allowed to cool to 60° C. and maintained at this temperature. Hexane (171 ml) was added dropwise thereto and the resulting mixture was allowed to cool to room temperature and then it was ice-cooled while maintaining temperature. Thereafter, the crystals formed were collected by filtration and dried to obtain 6-chloro-2-fluoro-3-methyl-4-nitrophenol (7.05 g, 61%).

reactant | 6-chloro-2-fluoro-3-methylphenol | 56.1 mmol, 9.00 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | nitronium•tetrafluoroborate | 60.8 mmol, 9.50 g | O=[N+]=O.F[B-](F)(F)F
reactant | Hexane | 171 ml | CCCCCC | C6H14
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | toluene | 57 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-fluoro-3-methyl-4-nitrophenol | 7.05 g, 61% | ClC1=CC(=C(C(=C1O)F)C)[N+](=O)[O-] | C7H5ClFNO3
